* HP Memristor SPICE Model Using Biolek Window

* Connections:
* TE:  Top electrode
* BE:  Bottom electrode
* XSV: External connection to plot state variable
*      that is not used otherwise

.SUBCKT MEM_BIOLEK TE BE XSV 

* Ron:  Minimum device resistance
* Roff: Maximum device resistance
* D:    Width of the thin film
* uv:   Dopant mobility
* p:    Parameter for window function
* x0:   State varaible initial value

.params Ron=100 Roff=1K x0=.076 D=16N uv=40F p=7

* Biolek Window Function
.func f(V1,I1)={1-pow((V1-stp(-I1)),(2*p))}

* Memristor I-V Relationship
.func IVRel(V1,V2) = V1/(Ron*V2 + Roff*(1-V2))

* Circuit to determine state variable
Gx 0 XSV value={I(Gmem)*Ron*uv*f(V(XSV,0),I(Gmem))/pow(D,2)}
Cx XSV 0 {1}
.ic V(XSV) = x0

* Current source representing memristor
Gmem TE BE value={IVRel(V(TE,BE),V(XSV,0))}

.ENDS MEM_BIOLEK

.SUBCKT MEM_BIOLEK_WILLIAN TE BE XSV 

* Ron:  Minimum device resistance
* Roff: Maximum device resistance
* D:    Width of the thin film
* uv:   Dopant mobility
* p:    Parameter for window function
* x0:   State varaible initial value

.params Ron=100 Roff=2e5 x0=.5 D=10e-9 uv=10e-14 p=2

* Biolek Window Function
.func f(V1,I1)={1-pow((V1-stp(-I1)),(2*p))}

* Memristor I-V Relationship
.func IVRel(V1,V2) = V1/(Ron*V2 + Roff*(1-V2))

* Circuit to determine state variable
Gx 0 XSV value={I(Gmem)*Ron*uv*f(V(XSV,0),I(Gmem))/pow(D,2)}
Cx XSV 0 {1}
.ic V(XSV) = x0

* Current source representing memristor
Gmem TE BE value={IVRel(V(TE,BE),V(XSV,0))}

.ENDS MEM_BIOLEK_WILLIAN